US05374643
B. 4-Bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H- 1-benzopyran
To a solution of 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (6.40 g, 34.18 mmol), title A compound, in carbon tetrachloride (90 mL) was added N-bromosuccinimide (6.69 g, 37.6 mmol). The solution was purged with argon. A solution of Azobisisobutyronitrile (0.4 g, 3.42 mmol) in carbon tetrachloride (10 mL) was added; the reaction was heated at reflux for 30 minutes with irradiation (high intensity visible light). The reaction mixture was concentrated under vacuum and the residue was dissolved in 75 mL ethyl acetate. The solution was washed successively with distilled water (4×75 mL), saturated sodium bicarbonate solution (75 mL), saturated NaCl solution (75 mL), and dried over magnesium sulfate. The solvent was recovered under vacuum to obtain an orange waxy solid which was triturated with cold pentane to provide a beige solid (7.19 g). This was crystallized from ethyl acetate and hexanes (10:90) to yield the title compound (4.60 g) as off-white needles, m.p. 94°-95° C. The mother liquors were combined and chromatographed on silica gel during with hexane/ethyl acetate (19:1) to afford additional product (2.26 g) for a combined yield of 75.4%.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 34.18 mmol, 6.40 g | C(#N)C=1C=CC2=C(CCC(O2)(C)C)C1 | C12H13NO
reactant | N-bromosuccinimide | 37.6 mmol, 6.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Azobisisobutyronitrile | 3.42 mmol, 0.4 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 90 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-6-cyano-3,4-dihydro-2,2-dimethyl-2H- 1-benzopyran | 7.19 g | BrC1CC(OC2=C1C=C(C=C2)C#N)(C)C | C12H12BrNO
